US07276603B2
To a stirred suspension of LiAlH4 (200 mg, excess) in THF at 0° C., ethyl(5-chloro-1-benzofuran-3-yl)acetate (1.19 g, 50 mmol) in THF (20 mL) was added slowly. After the addition, reaction mixture was stirred at room temperature for 1 hr and quenched with saturated NH4Cl solution. The product was extracted with chloroform and washed well with water. It was dried over anhydrous MgSO4, filtered and concentrated. The product, 2-(5-chloro-1-benzofuran-3-yl)ethanol, was obtained as a white oil and was pure enough and be taken to the next step without purification. Yield: 850 mg (86%); (M+H): 197.

reactant | LiAlH4 | 200 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl(5-chloro-1-benzofuran-3-yl)acetate | 50 mmol, 1.19 g | C(C)OC(CC1=COC2=C1C=C(C=C2)Cl)=O | C12H11ClO3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(5-chloro-1-benzofuran-3-yl)ethanol | ClC=1C=CC2=C(C(=CO2)CCO)C1 | C10H9ClO2
